US05064863
For the preparation of the starting material of Example 10a, p-(2-bromoethyl)-acetophenone was reacted with sodium azide in dimethylsulfoxide to give p-(2-azidoethyl)acetophenone. Oxidation with sodium hypobromite gave p-(2-azidoethyl)benzoic acid (m.p. 130°-131°, from acetone-hexane), which was converted with thionyl chloride into the corresponding acid chloride and subsequently with ammonia into p-(2-azidoethyl)benzamide. Treatment with triphenylphosphine and hydrolysis gave p-(2-aminoethyl)benzamide, m.p. 132°-133° (from ethanol).

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
reactant | p-(2-azidoethyl)benzamide | N(=[N+]=[N-])CCC1=CC=C(C(=O)N)C=C1 | C9H10N4O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethanol | C(C)O | C2H6O
product | p-(2-aminoethyl)benzamide | NCCC1=CC=C(C(=O)N)C=C1 | C9H12N2O
